US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.44 g, 2.91 mmol) was added to a stirred suspension of 3-[4-(aminomethyl)-1-oxoisoindolin-2-yl]piperidine-2,6-dione hydrochloride (0.6 g, 1.94 mmol) in acetonitrile (50 mL). After stirring for 30 min, ethyl isocyanate (0.21 g, 2.91 mmol) was added. The mixture was stirred at room temperature for 17 hours. Solvent was removed and the residue was stirred with methylene chloride (70 mL) to give N-{[2-(2,6-dioxo(3-piperidyl))-1-oxoisoindolin-4-yl]methyl}(ethylamino)carboxamide (0.28 g, 42%) as a white solid: mp 341–343° C.; 1H NMR (DMSO-d6) δ 11.02 (s, 1H), 7.62–7.47 (m, 3H), 6.40 (t, J=5.9 Hz, 1H), 5.95 (t, J=5.6 Hz, 1H), 5.18–5.10 (dd, J=5.3 and 13.3 Hz, 1H), 4.52–4.30 (dd, J=17.3 and 37.7 Hz, 2H), 4.28 (d, J=5.9 Hz, 2H), 3.04 (q, J=7.2 Hz, 2H), 3.01–2.86 (m, 1H), 2.65–2.34 (m, 2H0, 2.04–1.99 (m, 1H), 0.98 (t, J=7.2 Ha, 3H); 13C NMR (DMSO-6) δ 172.82, 170.97, 168.10, 157.86, 139.78, 136.24, 131.55, 130.25, 128.16, 121.32, 51.51, 46.13, 34.14, 31.16, 22.59, 15.67; Anal. Calcd for C17H20N4O4: C, 59.29; H, 5.85; N, 16.27. Found: C, 58.98; H, 5.85; N, 16.89.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 2.91 mmol, 0.44 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-[4-(aminomethyl)-1-oxoisoindolin-2-yl]piperidine-2,6-dione hydrochloride | 1.94 mmol, 0.6 g | Cl.NCC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O
reactant | ethyl isocyanate | 2.91 mmol, 0.21 g | C(C)N=C=O | C3H5NO
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-{[2-(2,6-dioxo(3-piperidyl))-1-oxoisoindolin-4-yl]methyl}(ethylamino)carboxamide | 0.28 g, 42% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1)CNC(=O)NCC)=O)=O | C17H20N4O4
